US06613743B2
A solution of N-(cyclopentyloxy)-3-nitro-1-benzenesulfonamide (2.98 g, 10.41 mmol) in 50 mL of absolute ethanol was combined with 5 wt % Palladium on barium sulfate (300 mg) and reduced under a balloon of hydrogen gas with vigorous agitation for 18 hours. The mixture was filtered, washed with ethanol, and evaporated in vacuo to a residue. The crude product was purified on flash grade silica gel eluting with 4:1 hexane : ethyl acetate. Fractions containing the product were combined, evaporated in vacuo and dried under vacuum to provide 3-amino-N1-(cyclopentyloxy)-1-benzenesulfonamide (2.67 g, 100%) as an oil. Hl-NMR chloroform-D3): 1.62 (m, 8H), 3.92 (bs, 2H), 4.58 (m, 1H), 6.74 (bs, !H), 6.88 (m, 1H), 7.16 (m, 1H), 7.27 (m, 2H). MS(ESI): 257(MH+).

reactant | N-(cyclopentyloxy)-3-nitro-1-benzenesulfonamide | 10.41 mmol, 2.98 g | C1(CCCC1)ONS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H14N2O5S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Palladium on barium sulfate | 300 mg | [Pd] | Pd
product | 3-amino-N1-(cyclopentyloxy)-1-benzenesulfonamide | 2.67 g, 100% | NC=1C=C(C=CC1)S(=O)(=O)NOC1CCCC1 | C11H16N2O3S
